US05650519
2 g (9 mmol) of methyl 2-isothiocyanato-2-phenylpropionate are dissolved in 30 ml of tetrahydrofuran. A solution containing 0.99 g of 2-hydrazinopyridine and 10 ml of tetrahydrofuran is added: the temperature of the mixture rises from 20° to 30° C. and a solid precipitates. The mixture is allowed to met for 0.5 hour at 30° C. and then is cooled to 5° C. A solution containing 1 g of potassium tert-butoxide and 10 ml of tetrahydrofuran is then added: the mixture becomes violet in color. The mixture is left to return to room temperature and is left to react for 2 hours. The mixture is poured into 150 ml of water. The mixture is neutralized with acetic acid. The product is extracted with 150 ml of ethyl acetate. The solution is washed with water, dried over magnesium sulfate and then treated with active charcoal. The solution is concentrated and the product is crystallized from 20 ml of diethyl ether. The above-mentioned product is filtered and is dried under vacuum. 1.6 g (yield: 60%) of 5-methyl-5-phenyl-3-(2-pyridylamino)-2-thiohydantoin is obtained as a pale-yellow solid melting at 80° C.

reactant | methyl 2-isothiocyanato-2-phenylpropionate | 9 mmol, 2 g | N(=C=S)C(C(=O)OC)(C)C1=CC=CC=C1 | C11H11NO2S
reactant | 2-hydrazinopyridine | 0.99 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | water | 150 ml | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 5-methyl-5-phenyl-3-(2-pyridylamino)-2-thiohydantoin | 1.6 g, yield: 60% | CC1(C(N(C(N1)=S)NC1=NC=CC=C1)=O)C1=CC=CC=C1 | C15H14N4OS
